*
* NGSPICE simulation script
*

* forces current values to be saved
.options savecurrents

*****Fontes de Tensão******
* Va
Va 1 0 5.06746014433

Vaux 0 8 0.0

Hvc 7 5 Vaux 8.27502512258k

*****Fontes de Corrente*****
Id 5 4 1.0108365504m

Gib 4 3 2 7 7.1618106871m


*****Resistencias******

*Resistencia 1
R1 1 2 1.04775855388k

*Resistencia 2
R2 3 2 2.00711094558k

*Resistencia 3
R3 2 7 3.02178550749k

*Resistencia 4
R4 7 0 4.02797784466k

*Resistencia 5
R5 4 7 3.14843263841k

*Resistencia 6
R6 8 6 2.07021546873k

*Resistencia 7
R7 6 5 1.04260703248k

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
print @Va[i]
print @Hvc[i]
echo  "op_END"



quit
.endc

.end
