.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0


* output stage
 Q2 0 0 emit2 BC557A
Rout emit2 vcc 450
*Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 1m

* load
*RL out 0 8
Vfc2 out 0 0 ac 1.0 sin(0 10.0 1k)

.op


.end

.control


* time analysis
tran 1e-5 1e-2
plot v(out)
hardcopy vo1.ps v(out)


* frequency analysis
ac dec 10 10 100MEG
plot v(out)
hardcopy vo31f.ps v(out)
hardcopy vo30f.ps db(v(out))


*Impedância de Output da Out (pôr Rin e Vin a zero, Rl subst por Vfc2)

plot abs(v(out)[40]/vfc2#branch[40]/(-1000))
print v(out)[40]/vfc2#branch[40]/(-1000)


*input impedance in kohm
*print all

*need a different setup to measure output impedance

.endc 

