*-----------------------------------------------------------------------------
*
* To use a subcircuit, the name must begin with 'X'.  For example:
* X1 1 2 3 4 5 uA741
*
* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |  negative power supply
*                |  |  |  |  output
*                |  |  |  |  |
.subckt uA741    1  2  3  4  5
*
  c1   11 12 8.661E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -10E6 10E6 10E6 -10E6
  ga    6  0 11 12 188.5E-6
  gcm   0  6 10 99 5.961E-9
  iee  10  4 dc 15.16E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 5.305E3
  rc2   3 12 5.305E3
  re1  13 10 1.836E3
  re2  14 10 1.836E3
  ree  10 99 13.19E6
  ro1   8  5 50
  ro2   7 99 100
  rp    3  4 18.16E3
  vb    9  0 dc 0
  vc    3 53 dc 1
  ve   54  4 dc 1
  vlim  7  8 dc 0
  vlp  91  0 dc 40
  vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends



.options savecurrents

Vcc vcc 0 5.0
Vee vee 0 -5.0
Vin in 0 0 ac 0.0 sin(0 0 1k)

X1 non_in inv_in vcc vee aux_out uA741

C1 in non_in 220n
R1 0 non_in 1k

R3 inv_in 0 1k
R4 inv_in aux_out 100k

R2 aux_out out 1k
C2 0 out 110n

* load
Vl out 0 0 ac 1.0 sin(0 1.0 1k)

.op
.measure ac out_max MAX vdb(out) from=1 to=100MEG

.param out_Band_Limit = 3.935130e+01 -3.0

.measure ac out_LowerLimit when vdb(out)=out_Band_Limit
.measure ac out_UpperLimit when vdb(out)=out_Band_Limit CROSS=LAST

*Resultados do circ inversor
*out_max             =  5.600772e+00 at=  5.011872e+02
*out_lowerlimit      =   9.75430e+01
*out_upperlimit      =   2.30128e+03


.end

.control

print all

* time analysis
tran 1e-5 1e-2
plot vdb(out)
hardcopy vo1.ps vdb(out)
*echo vo1_FIG


* frequency analysis
ac dec 10 1 100MEG
*plot vdb(out)
*plot v(out)
*plot vp(out)
*hardcopy vo1db.ps vdb(out)
*echo vo1f_FIG
*hardcopy vo1f.ps v(out)
*hardcopy vo1ph.ps vp(out)

*input impedance in kohm
plot abs(v(out)[30]/Vl#branch[30]/(-1000))
print v(out)[30]/Vl#branch[30]/(-1000)

*v(out)[30]/vl#branch[30]/(-1000) = 6.800495e-01,-4.66901e-01

.endc 

